### PR TITLE
feat(RingTheory): definition of Koszul complex

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Definition of Koszul cocomplex.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/KoszulComplex/Complex.lean [hunk 1]
```diff
@@ -0,0 +1,188 @@
...
+lemma map_comp (f : M →ₗ[R] N) (φ' : N →ₗ[R] R) (g : N →ₗ[R] L) (φ'' : L →ₗ[R] R)
+    (h : φ' ∘ₗ f = φ) (h' : φ'' ∘ₗ g = φ') (h'' : φ'' ∘ₗ g ∘ₗ f = φ) :
+    koszulComplex.map φ f φ' h ≫ koszulComplex.map φ' g φ'' h' =
+      koszulComplex.map φ (g ∘ₗ f) φ'' h'' := by
+  ext i x
+  simp [map_f, exteriorPower.map_comp]
+
+/-- The isomorphism between two Koszul complexes induced by an isomorphism between modules which
+commutes with the two defining linear maps. -/
+@[stacks 0625 "general version for linear equivalences"]
```
Comment (Whysoserioushah) [inline Mathlib/RingTheory/KoszulComplex/Complex.lean:163]:
```suggestion
@[implicit_reducible, stacks 0625 "general version for linear equivalences"]
```

File: Mathlib/RingTheory/KoszulComplex/Complex.lean [hunk 2]
```diff
@@ -0,0 +1,188 @@
...
+    simp [β, smul_smul, mul_comm]
+  have : (koszulComplex.d φ n).compAlternatingMap (koszulComplex.dAlternating φ (n + 1)) = 0 := by
+    rw [← AlternatingMap.alternatizeUncurryFin_alternatizeUncurryFinLM_comp_of_symmetric hβ]
+    ext v
+    simp [koszulComplex.d, koszulComplex.dAlternating, β,
+      AlternatingMap.alternatizeUncurryFin_apply, Finset.smul_sum]
+  simpa [koszulComplex.d, ← exteriorPower.alternatingMapLinearEquiv_comp]
+
+/-- The Koszul complex, with objects exterior powers and differential `koszulComplex.d`. -/
+@[implicit_reducible, stacks 0622 "only recording chain complex"]
```
Comment (Whysoserioushah) [inline Mathlib/RingTheory/KoszulComplex/Complex.lean]:
```suggestion
@[implicit_reducible, stacks 0622 "only recording chain complex", simps X]
```
